US05948820
(6) 2-Amino-2-(2-(2-benzyloxyphenyl)ethyl)pentanol
To a solution of ethyl 2-(2-(2-benzyloxyphenyl)ethyl)-2-methoxycarbonylaminopentanoate (2.3 g) in tetrahydrofuran (50 ml), under a nitrogen atmosphere, lithium borohydride (0.24 g) was added and the mixture was refluxed under heating for 2.5 hours. Then, a 2N dilute hydrochloric acid (5.5 ml) was added thereto and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated brine, dried over sodium sulfate and the solvent was distilled away under reduced pressure. The residue obtained was dissolved in methanol (30 ml), and tetrahydrofuran (1 ml) and a 5N aqueous potassium hydroxide solution (10 ml) were added thereto and the mixture was refluxed under heating for 4 days. The reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated brine, dried over sodium sulfate and the solvent was distilled away under reduced pressure. The reaction mixture was concentrated under reduced pressure to give the subject compound (1.1 g).

reactant | ethyl 2-(2-(2-benzyloxyphenyl)ethyl)-2-methoxycarbonylaminopentanoate | 2.3 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC(C(=O)OCC)(CCC)NC(=O)OC | C24H31NO5
reactant | lithium borohydride | 0.24 g | [BH4-].[Li+]
reactant | hydrochloric acid | 2N, 5.5 ml | Cl | ClH
reactant | potassium hydroxide | 5N, 10 ml | [OH-].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Amino-2-(2-(2-benzyloxyphenyl)ethyl)pentanol | 1.1 g | NC(CO)(CCC)CCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C20H27NO2
